US04028415
Benzoyl chloride (1.49 g.) was added to 3-dimethylamino-1,1-diphenyl-propan-2-ol (2.55 g.) in dry pyridine (10 ml.) and the solution allowed to stand for 4 hours. Pyridine was removed by evaporation and the residue dissolved in dilute hydrochloric acid and ether. Basification of the acid extract and isolation through ether in the usual manner gave 2-benzoyloxy-3-dimethylamino-1,1-diphenylpropane (3.47 g., 99%), m.p. 90° - 91°.

reactant | Benzoyl chloride | 1.49 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 3-dimethylamino-1,1-diphenyl-propan-2-ol | 2.55 g | CN(CC(C(C1=CC=CC=C1)C1=CC=CC=C1)O)C | C17H21NO
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 2-benzoyloxy-3-dimethylamino-1,1-diphenylpropane | 3.47 g, 99% | C(C1=CC=CC=C1)(=O)OC(C(C1=CC=CC=C1)C1=CC=CC=C1)CN(C)C | C24H25NO2
